US04814344
1-(1,5-Dimethyl-1H-indol-3-yl)-1-ethanone
Phosphoryl chloride (2.1 ml) was added dropwise to ice-cooled, dimethylacetamide (20 ml) and the solution was stirred at ca.0° for 10 min. A solution of 1,5-dimethyl-1H-indole (2.5 g) in dimethylacetamide (5 ml) was added, and the resulting solution was stirred at 85° for 2 h, then cooled, and partitioned between sodium carbonate (2N; 500 ml) and ethyl acetate (2×300 ml). The combined organic extracts were washed with water (300 ml), dried and evaporated in vacuo to give an oil, which was purified by FCC eluting with chloroform:hexane (1:1) to give the title comound as a solid (1.5 g), m.p. 119°-121°.

reactant | Phosphoryl chloride | 2.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,5-dimethyl-1H-indole | 2.5 g | CN1C=CC2=CC(=CC=C12)C | C10H11N
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 1-(1,5-Dimethyl-1H-indol-3-yl)-1-ethanone | 1.5 g | CN1C=C(C2=CC(=CC=C12)C)C(C)=O | C12H13NO
